US06750236B2
2-Bromo-N-[4-isopropyl-2-(trifluoromethyl)phenyl]acetamide
50 g (246.06 mmol) of 4-isopropyl-2-(trifluoromethyl)aniline and 27.39 g (270.66 mmol) of triethylamine are initially charged in 1000 ml of dichloromethane. At 0°-5° C., 54.63 g (270.66 mmol) of bromoacetyl bromide, dissolved in 200 ml of dichloromethane, are added dropwise. The mixture is stirred at room temperature for 20 hours. The reaction mixture is then extracted successively with water, 1 N hydrochloric acid, water, saturated sodium bicarbonate solution and water. The organic phase is dried over sodium sulphate and the solvent is removed under reduced pressure. The residue is purified chromatographically. The product is recrystallized from cyclohexane/n-pentane, filtered off with suction and dried under reduced pressure at 40° C. for 20 hours. This gives 32.45 g (41% of theory) of the title compound.

reactant | 4-isopropyl-2-(trifluoromethyl)aniline | 246.06 mmol, 50 g | C(C)(C)C1=CC(=C(N)C=C1)C(F)(F)F | C10H12F3N
reactant | triethylamine | 270.66 mmol, 27.39 g | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 270.66 mmol, 54.63 g | BrCC(=O)Br | C2H2Br2O
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-Bromo-N-[4-isopropyl-2-(trifluoromethyl)phenyl]acetamide | BrCC(=O)NC1=C(C=C(C=C1)C(C)C)C(F)(F)F | C12H13BrF3NO
